US06875769B2
4-(1-Ethyl-propoxy)-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline
To a solution of 3-pentanol (5.8 ml, 52.7 mmol) in dry THF (5 ml) was added sodium hydride (NaH) portionwise over a period of 10 min. A solution of 4-chloro-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline (4.0006 g, 13.52 mmol) in dry THF (10 ml) was added. After stirring at room temperature as for 10 min, 15 ml of dry DMSO was added. The resulting mixture was heated in a 12° C. oil bath for 1.5 hours. The mixture was quenched with water and extracted with EtOAc. The organic layer was separated, dried, filtered, and concentrated to give the title compound as 5.002 g of a yellow solid.

reactant | 3-pentanol | 52.7 mmol, 5.8 ml | CCC(CC)O | C5H12O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline | 13.52 mmol, 4.0006 g | ClC1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C | C19H18ClN
reactant | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(1-Ethyl-propoxy)-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline | C(C)C(CC)OC1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C | C24H29NO
